### PR TITLE
[Merged by Bors] - feat: `insert (b + 1) (Ioc a b) = Ioc a (b + 1)`

### PR DESCRIPTION
**Pull request by YaelDillies**
And shorten recently introduced names for consistency

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 1]
```diff
@@ -70,13 +70,24 @@ lemma insert_Icc_eq_Icc_add_one_right (h : a ≤ b + 1) :
     insert (b + 1) (Icc a b) = Icc a (b + 1) := by
   simpa [← succ_eq_add_one] using insert_Icc_eq_Icc_succ_right (succ_eq_add_one b ▸ h)
 
-lemma insert_Ico_right_eq_Ico_add_one_right_of_not_isMax (h : a ≤ b) (hb : ¬ IsMax b) :
+lemma insert_Ico_eq_Ico_add_one_right_of_not_isMax (h : a ≤ b) (hb : ¬ IsMax b) :
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:73]: Just reminding you that yesterday in person you said you wanted to change this name to begin with `insert_Ico_right_`

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/Order/Interval/Set/SuccPred.lean [hunk 2]
```diff
@@ -67,13 +67,24 @@ lemma insert_Icc_eq_Icc_add_one_right (h : a ≤ b + 1) :
     insert (b + 1) (Icc a b) = Icc a (b + 1) := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Set/SuccPred.lean:67]: `insert_Icc_eq_Icc_add_one_right` looks like you want to change it too?

Comment (b-mehta) [reply Mathlib/Algebra/Order/Interval/Set/SuccPred.lean:67]: (In general, the rule you told me in person was that the left/right indicator, if it exists, should be associated to the LHS - that rule seems reasonable and I think you're following it in the new lemmas!)

File: Mathlib/Algebra/Order/Interval/Set/SuccPred.lean [hunk 3]
```diff
@@ -135,13 +152,24 @@ lemma insert_Icc_eq_Icc_sub_one_left (h : a - 1 ≤ b) :
     insert (a - 1) (Icc a b) = Icc (a - 1) b := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Set/SuccPred.lean:152]: this one too

**Review by b-mehta — COMMENTED** [review]
It looks like some of them are changed to the new naming scheme, but not all! I'm not sure if this is accidental, or if your idea was to go halfway in this PR. My preference would be to make all the renames simultaneously, for the sake of consistency. I don't have a preference if that's in this PR or in another, and this one is restricted to the new lemmas only.

**Comment by YaelDillies** [comment]
Okay, I think I got them all!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
